US04990521
A mixture of 2.7 parts of trans-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-4-[[2-(phenylmethoxy)benzoyl]amino]-1-piperidinebutanamide and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was taken up in methylbenzene and the solvent was evaporated again. The residue was suspended in a mixture of 2,2'-oxybispropane and a few drops of acetonitrile. The product was filtered off and dried in vacuo at 70° C., yielding 1.3 parts (63.0%) of trans-3-hydroxy-4-[(2-hydroxybenzoyl)-amino]-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide; mp. 154.3° C. (compound 77).

reactant | trans-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-4-[[2-(phenylmethoxy)benzoyl]amino]-1-piperidinebutanamide | O[C@@H]1CN(CC[C@H]1NC(C1=C(C=CC=C1)OCC1=CC=CC=C1)=O)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C38H43N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | trans-3-hydroxy-4-[(2-hydroxybenzoyl)-amino]-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | 63.0% | O[C@@H]1CN(CC[C@H]1NC(C1=C(C=CC=C1)O)=O)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C31H37N3O4
